US05028334
Triisobutylene is reacted with phosphine according to Example 1 and the reaction mixture is subjected to vacuum stripping to remove unreacted triisobutylene and mono 2,4,4,6,6-pentamethylheptylphosphine. The residue is reacted with 1-dodecene according to Example 1 and a mixture is obtained of predominantly bis(2,4,4,6,6-pentamethylheptyl)-ndodecylphosphine and tris(2,4,4,6,6-pentamethylheptyl) phosphine. The above mixture is oxidized with hydrogen peroxide and the corresponding mixture of symmetrical branched and unsymmetrical branched tertiary phosphine oxides is obtained, useful as a metal extractant commposition.

reactant | Triisobutylene | CC(=CC(C)(C)CC(C)(C)C)C | C12H24
reactant | phosphine | P | H3P
product | tris(2,4,4,6,6-pentamethylheptyl) phosphine | CC(CP(CC(CC(CC(C)(C)C)(C)C)C)CC(CC(CC(C)(C)C)(C)C)C)CC(CC(C)(C)C)(C)C | C36H75P
